Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Shortness of breath 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o female with a h/o HTN and newly diagnosed metastatic 
cancer (either pancreatic or biliary - biopsy from ___ not 
definitive) who presented to the ED with shortness of breath. 
She was recently discharged from ___ on ___ when she 
presented with a new liver mass, ascites, and failure to thrive. 
She was found to have metastatic cancer and she was discharged 
to ___. On day of this admission she was 
found to be acutely hypoxic with sats 77% on RA and 89% on a 
NRB. She also had an episode of emesis preceding the hypoxia. 
She has had mild N/V and abdominal distention recently.  
.
ED vitals: T 98.8 HR 82 BP 105/62 RR 25 88%NRB. CXR revealed a 
LLL opacity concerning for pneumonia. She was given vancomycin 1 
gram IV x 1, zofran, IVF, lasix 20 mg IV x 1, and cefepime 2 g 
IV x 1. Her code status was discussed with her daughter and the 
decision was made to proceed with DNR/DNI. She was admitted to 
the FICU for closer monitoring and possible need for BiPAP. Her 
initial lactate was 7.2. ABG was 7.50/32/49, repeat 7.45/40/118. 
U/A was negative. 

 
Past Medical History:
Metastatic Pancreatic CA
Hypertension

 
Social History:
___
Family History:
Daughter with malignant fibroids; no other h/o cancer. Mother 
with CHF. Father with angina. 
 
Physical Exam:
Gen: Older, cachetic woman in no acute distress, A&Ox3  
HEENT: conjunctiva clear, sclera nonicteric, MM slightly dry  
Neck: supple, no thyromegaly or thyroid nodules noted  
Onc: no cervical, supraclavicular, axillary, inguinal LAD noted; 
 
no breast masses noted.  
CV: RRR, ?S3 at L lower  
Lungs: Decreased BS at RLL, otherwise clear  
Abd: +BS, soft, nontender, mildly distended, firmness noted on R 
 
side ?hepatomegaly  
Back: no CVAT  
Ext: 2+ pedal edema at the feet to trace on calves, faint DP  
pulses, cool to touch bilaterally, good capillary refill  
Neuro: CNs II-XII grossly intact, MS ___ in BUEs and BLEs, DTRs  

2+/4 except 1+/4 in L patellar, down going babinski in L and  
equivocal on R, no gross sensory deficits.  

 
Pertinent Results:
___ ADMISSION LABS:
CBC:
WBC-23.6* RBC-5.87* Hgb-13.9 Hct-45.4 MCV-77* MCH-23.7* 
MCHC-30.6* RDW-17.6* Plt ___ Neuts-89.9* Bands-0 Lymphs-7.6* 
Monos-2.2 Eos-0.2 Baso-0.2
.
___ PTT-30.8 ___
.
Glucose-108* UreaN-37* Creat-0.9 Na-134 K-4.6 Cl-94* HCO3-26 
AnGap-19 Calcium-10.5* Phos-4.7*# Mg-1.9
.
ABGs:
Type-ART pO2-49* pCO2-32* pH-7.50* calTCO2-26 Base XS-1 
Intubat-NOT INTUBA
.
Type-ART FiO2-100 pO2-118* pCO2-40 pH-7.45 calTCO2-29 Base XS-4 
AADO2-569 REQ O2-92
.
___ 09:38PM BLOOD Lactate-7.2*
___ 09:44PM BLOOD Lactate-7.0* K-4.8
___ 12:03AM BLOOD Lactate-6.2*
.
URINE:
___ 09:30PM URINE Color-Amber Appear-Clear Sp ___ 
Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG Ketone-TR 
Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
.
********************MICRO:
___ BCx: PND
___ UCx: PND
.
*******************RADIOLOGY
CXR ___:
Increased opacity in the left lower lobe particularly the 
retrocardiac region suspicious for progressing pneumonia.  Mild 
haziness in the right lower lobe may also reflect infection.
 
Brief Hospital Course:
PNEUMONIA, BACTERIAL, HOSPITAL ACQUIRED (NON-VAP)

Evidence of LLL pneumonia on clinical exam and CXR. Recent 
hospital admission, possible developing infiltrate on prior CXR, 
pt was covered with 7 day course of vancomycin, cephalosporin.
 
PNEUMONIA, ASPIRATION

Concern for aspiration event given N/V and subsequent hypoxia so 
also received 7 days of flagyl. Aspiration precautions.

CANCER (MALIGNANT NEOPLASM), PANCREAS VS. BILIARY

Metastatic to liver, lung, and possibly bone. Pt was not 
interested in chemotherapy. Evidence of ascites on exam which is 
known from prior admission. 
 

LACTIC ACIDOSIS

Likely from malignancy, discussed severity of illness with 
pt/daughter, pt ___ no further treatment, home to hospice.
 
Medications on Admission:
1. Methylphenidate 5 mg Tablet Sig: Two (2) Tablet PO BID (2  
times a day).  
2. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Sodium Chloride 1 gram Tablet Sig: 1.5 Tablets PO BID (2  
times a day).  
4. Nystatin 100,000 unit/g Cream Sig: One (1) Appl Topical BID  
(2 times a day).  

 
Discharge Medications:
1. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.
Disp:*30 Tablet(s)* Refills:*0*
3. Ativan 1 mg Tablet Sig: One (1) Tablet PO every six (6) hours 
as needed for pain.
Disp:*12 Tablet(s)* Refills:*0*
4. Morphine Concentrate 20 mg/mL Solution Sig: 0.25 ml PO every 
four (4) hours as needed for pain.
Disp:*30 ml* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pneumonia
Metastatic cancer (pancreatic or biliary - not definatively 
known) to liver and lung
Malignant ascites
Malnutrition with cachexia

 
Discharge Condition:
Guarded

 
Discharge Instructions:
You are being discharged from the hospital with hospice care.
 
Followup Instructions:
___